US08183271B2
2-Chloro-4-(tert-butyl)benzyl bromide
1.75 g (9.85 mmol) of N-bromosuccinimide and 10.8 mg (0.006 mmol) of 2,2′-azobis-2-methylpropanenitrile are added to a solution of 2 g (10.95 mmol) of 4-tert-butyl-2-chloro-1-methylbenzene in 10 ml of tetrachloromethane, and the mixtures is stirred under reflux for 4 hours. After cooling, the mixture is concentrated. The residue is purified by flash chromatography on silica gel (mobile phase, cyclohexane). 2.1 g (38% of theory) of the title compound are obtained with a purity of 52%.

reactant | N-bromosuccinimide | 9.85 mmol, 1.75 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-tert-butyl-2-chloro-1-methylbenzene | 10.95 mmol, 2 g | C(C)(C)(C)C1=CC(=C(C=C1)C)Cl | C11H15Cl
solvent | tetrachloromethane | 10 ml | ClC(Cl)(Cl)Cl | CCl4
product | 2-Chloro-4-(tert-butyl)benzyl bromide | ClC1=C(CBr)C=CC(=C1)C(C)(C)C | C11H14BrCl
